US04997940
Preparation of 2-benzylthio-3-cyano-5,7-dimethylpyrazolo[1,5-a]pyrimidine
A slurry of 0.5 g (2.2 mmole) of 3-amino-5-benzylthio-4-cyanopyrazole in 15 ml glacial HOAc was stirred at room temperature as 0.44 g (4.4 mmole) of 2,4-pentanedione was added. The mixture was stirred at room temperature for 3 hours. The white solid was collected by filtration, washed with HOAc, and dried to give 0.62 g (95.4 percent) of product as a white powder, m.p. 140° C. The analytical sample was recrystallized from 2-propanol. 1H NMR (DMSO-d-6): 7.5 (m, 2H, benzene), 7.3 (m, 3H, benzene), 7.1 (s, 1H, pyrazolopyrimidinyl H-6), 4.5 (s, 2H, CH ), 2.7 (s, 3H, CH3), 2.5 (s obscured by DMSO, 3H, CH3). 13C NMR (DMSO-d-6): 163.3, 155.3, 150.5, 146.7, 137.0, 129.1, 128.3, 127.3 112.8, 111.1, 79.0, 34.5, 24.1, 16.3. IR (KBr): 2220, 1615, 1550 cm- 1.

reactant | 3-amino-5-benzylthio-4-cyanopyrazole | 2.2 mmole, 0.5 g | NC1=NNC(=C1C#N)SCC1=CC=CC=C1 | C11H10N4S
reactant | 2,4-pentanedione | 4.4 mmole, 0.44 g | CC(CC(C)=O)=O | C5H8O2
solvent | HOAc | 15 ml | CC(=O)O | C2H4O2
product | 2-benzylthio-3-cyano-5,7-dimethylpyrazolo[1,5-a]pyrimidine | 0.62 g, 95.4 percent | C(C1=CC=CC=C1)SC1=NN2C(N=C(C=C2C)C)=C1C#N | C16H14N4S
